US09062050B2
Step 2: Benzyl-(6-fluoroindan-1-yl)-amine
Dissolve benzyl-(6-fluoroindan-1-ylidene)-amine (23.22 g, 97.03 mmol) in ethanol (1200 mL). Cool the mixture to 0° C. under nitrogen. Add sodium borohydride (11.01 g, 291.10 mmol) to the mixture. After one hour, add dichloromethane (150 mL) and water (150 mL). Stir for 14 hours under nitrogen and concentrate in vacuo to remove ethanol. Extract the residue with dichloromethane and saturated aqueous sodium chloride. Dry the resulting organics with magnesium sulfate, filter, and concentrate in vacuo to give the title compound as a red oil (22.12 g, 94%). MS (ES) m/z=242 [M+1].

reactant | benzyl-(6-fluoroindan-1-ylidene)-amine | 97.03 mmol, 23.22 g | C(C1=CC=CC=C1)N=C1CCC2=CC=C(C=C12)F | C16H14FN
reactant | sodium borohydride | 291.10 mmol, 11.01 g | [BH4-].[Na+]
reactant | dichloromethane | 150 mL | ClCCl | CH2Cl2
reactant | water | 150 mL | O | H2O
solvent | ethanol | 1200 mL | C(C)O | C2H6O
product | Benzyl-(6-fluoroindan-1-yl)-amine | 22.12 g, 94% | C(C1=CC=CC=C1)NC1CCC2=CC=C(C=C12)F | C16H16FN
